US06180823B2
To a solution of (S)-Cyclohexenyl phenyl glycolic acid (1.11 g, 4.78 mmol) in methanol (16 mL) was added 10% Pd/C (0.11 g). The reaction was subjected to 1 ATM of Hydrogen and was allowed to stir for 18 h. The reaction mixture was filtered through a plug of celite and concentrated in vacuo to provide 1.01 g of (S)-CHPGA (91%, 98.3% e.e.).

reactant | (S)-Cyclohexenyl phenyl glycolic acid | 4.78 mmol, 1.11 g | C1(=CCCCC1)[C@](C(=O)O)(O)C1=CC=CC=C1 | C14H16O3
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 16 mL | CO | CH4O
catalyst | Pd/C | 0.11 g | [Pd] | Pd
product | (S)-CHPGA | 1.01 g, 91% | C1CCC(CC1)[C@](C2=CC=CC=C2)(C(=O)O)O | C14H18O3
